US04774245
a. 3-cyclopropyl-5-formylaminomethyl-1,2,4-oxadiazole
A solution of ethyl formylaminomethyl-carboxylate (150 mmol) and cyclopropyl carboxamide oxime (100 mmol) in 100% EtOH (100 ml) was charged with Na (200 mg) and crushed molecular sieve (4 Å) (10 g). The mixture thus obtained was stirred and heated to reflux for 16 hours. The mixture was cooled to room temperature, filtered through filter aid and the filtrate was evaporated in vacuo. The oily residue was partitioned into a CHCl3 phase which was dried with Na2SO4 and evaporated to give the title compound as an oil.

reactant | ethyl formylaminomethyl-carboxylate | 150 mmol | C(=O)NCC(=O)OCC | C5H9NO3
reactant | cyclopropyl carboxamide oxime | 100 mmol | C1(CC1)C(N)=NO | C4H8N2O
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3-cyclopropyl-5-formylaminomethyl-1,2,4-oxadiazole | C1(CC1)C1=NOC(=N1)CNC=O | C7H9N3O2
